US07071272B2
A salt bath (alkali metal nitrate) was equipped with a SUS-made column having an internal diameter of 20 mm and a length of 1 m and a SUS-made fluidized bed reactor of an internal diameter of 45 mm and a height of 400 mm having 280 g of Na2CO3 of an average particle size of 160 μm filled therein, placed in series, and a temperature in the salt bath was adjusted at 270° C. A nitrogen gas was passed through the reactor at a rate of 1520 mL/min, and CF3CF2CF2OCF(CF3)COOCF2CF(CF3)OCF2CF2CF3 (purity: 99%) prepared in the following Example 4 was fed thereto by a quantitative pump at a rate of 60.2 g/hour for 1.8 hours. The reaction outlet was equipped with a dry ice/ethanol trap to recover a product. CF3CF2CF2OCF(CF3)COF was not detected, and CF3CF2CF2OCF═CF2 was formed at a yield of 80%. A peak of 19F-NMR (564.6 MHz, solvent CDCl3, standard: CFCl3) of the product corresponded to that of a sample product.

reactant | Na2CO3 | 280 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CF3CF2CF2OCF(CF3)COOCF2CF(CF3)OCF2CF2CF3 | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)OC(F)(F)C(F)(C(F)(F)F)OC(F)(F)C(F)(F)C(F)(F)F | C12F24O4
product | CF3CF2CF2OCF═CF2 | yield of 80% | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)=C(F)F | C5F10O
